US06599902B2
Synthesis of (R)-1-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carbonyl}-piperidine-3-carboxylic acid cyclopropylamide
A mixture of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (250 mg, 0.5 mmol), HOBt (65 mg), EDAC (191 mg), (R)-piperidine-3-carboxylic acid cyclopropylamide (250 mg) and TEA (7 drops) in DMF (3 mL) was stirred at rt for overnight. The reaction was diluted with DCM, washed with water, 10% sodium carbonate, dried and concentrated. The residue was purified on a silica gel column to give 200 mg of the titled compound.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.5 mmol, 250 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | HOBt | 65 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 191 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | (R)-piperidine-3-carboxylic acid cyclopropylamide | 250 mg | C1(CC1)NC(=O)[C@H]1CNCCC1 | C9H16N2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-1-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carbonyl}-piperidine-3-carboxylic acid cyclopropylamide | 200 mg | C1(CC1)NC(=O)[C@H]1CN(CCC1)C(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C32H32Cl2N4O5S
